Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Morphine
 
Attending: ___.
 
Chief Complaint:
___
 
Major Surgical or Invasive Procedure:
Esophagogastroduodenoscopy (EGD) x2
Blood transfusion x4

 
History of Present Illness:
___ yo M with PMH of Crohn's disease who presents with 3 days of 
melana. He reports that 3 days ago he began to have black, tarry 
colored stools which at first were formed but the day prior to 
presentation began to be more diarrhea. No bright red blood per 
rectum. No nausea or vomiting. He has never had this before. He 
notes his baseline Crohn's pain of diffuse crampy abdominal pain 
but it has only been at a level of "4" which he reports as low. 
Able to eat without too much pain. Has been drinking. +flatus. 

Of note, he was recently hospitalized for a Crohn's flare last 
month. He had a partial obstruction treated with IV antibiotics 
and steroids. He also recently had a fistulea and abscess 
drained in the perirecal area.  Dr. ___ the 
patient on ___ for his Crohn's disease ___ days ago (on ___.

Currently, he denies chest pain but reports palpitations. No 
shortness of breath but some lightheadedness. No nausea or 
vomiting. No bowel movement since coming to the hospital. No 
dysuria, hematuria. Baseline abdominal pain of 4 as above.

In the ED, his initial vital signs were T 98.5, BP 131/80, HR 
115, RR 18, O2sat 100% RA. He was given IVF, and ativan 1.5mg IV 
total. NG lavage was negative for bleed per report.
 
Past Medical History:
-Crohn's disease -dx in ___ and was on Remicaid in the past 
___. Had small bowel resection x2 and stricturoplasty in the 
past as well. He then had fistulas repaired recently. 
-B12 deficiency
 
Social History:
___
Family History:
father- irritable bowel disease
Father's family has heart disease
Mother's family had lung cancer, breast cancer
 
Physical Exam:
vitals: T 98.3, HR 114, BP 119/58, RR 12, O2sat 100% RA
General: very thin male in NAD, sitting up in bed.
HEENT: MMM, PERRL, EOMI, anicteric sclera, non-injected 
conjunctiva, OP clear without erythema or exudate
CV: tachycardic but RR no murmurs 
Lungs: CTAB no w/r/r
Abdomen: +BS, soft, non-tender and non-distended. No HSM 
appreciated.
Ext: no e/c/c
Rectal: not done now as GI is about to perform EGD, but per ED: 
guiac positive melanotic stool. Normal tone.
Neuro: CNIII-XII in tact, strength full throughout upper and 
lower extremities, sensation in tact to light touch throughout. 
Reflexes symmetric bicep, brachioradialis, patellar. Toes mute. 
Did not assess gait. 
 
Pertinent Results:
___ 02:45PM BLOOD WBC-15.9* RBC-4.31* Hgb-11.5* Hct-35.0* 
MCV-81* MCH-26.8* MCHC-33.0 RDW-16.8* Plt ___
___ 02:45PM BLOOD ___ PTT-25.5 ___
___ 02:45PM BLOOD Glucose-151* UreaN-21* Creat-0.7 Na-137 
K-4.1 Cl-101 HCO3-30 AnGap-10
___ 06:27PM BLOOD Calcium-8.3* Phos-3.2 Mg-1.8
___ 04:40AM BLOOD Glucose-78 UreaN-12 Creat-0.8 Na-140 
K-3.8 Cl-104 HCO3-32 AnGap-8

Hct trend: 35 -> 25 -(1 unit RBC)-> 31.8 -> 25.1 -(1 unit RBC)-> 
31.6 -> 24.8 -(2 units RBC)-> 29.9 -> 31.6

EGD ___:
Erosions in the second part of the duodenum with evidence of 
bleeding, treated successfully with cautery and clips. (thermal 
therapy, endoclip)
Otherwise normal EGD to second part of the duodenum.

EGD ___:
Friability and congestion of the mucosa with contact bleeding 
were noted in the second part of the duodenum compatible with 
duodenitis. Multiple superficial ulcers were found in the second 
part of the duodenum which could be secondary to crohn's 
disease. There was no sign of active bleeding. Scarring of ___ 
part of duodenum.
 
Brief Hospital Course:
1. Duodenitis with blood loss:
Patient was initially admitted to the MICU for hct drop from 35 
to 25. EGD showed duodenal ulcerations which were cauterized and 
clipped. He had 1 further episode of melena the morning after 
the endoscopy. He was treated with a PPI drip for over 12 hours 
post-procedure, then changed to pantoprazole 40mg PO BID. He was 
transfused 1 unit pRBCs due to the hct drop and tachycardia, 
latter felt to be related to anxiety and anemia. He had recieved 
4L IVF in the ED and was not felt to be dehydrated as he was 
urinating large volumes. His diet was advanced to regular and he 
was restarted on his PO prednisone and mesalamine. His ___ was 
held per GI recommendations. He remained hemodynamically stable 
and was transferred to the floor. On arrival, he had further 
tachycardia, which resolved with encouraged PO intake. He had 
two more episodes of melena, with associated hct drop (see 
Pertinent Results). Was transfused a total of 3 more units pRBCs 
on the floor. Repeat EGD showed duodenitis with friable mucosa, 
likely secondary to Crohn's. After PPD was negative, he was 
given a remicade infusion as an inpatient. His hematocrit 
continued to be followed and remained stable.
 
Medications on Admission:
prednisone 50mg daily (on a taper)  
___ 50mg daily  
pentasa 2000mg BID  
MVI  
B12 SQ injections weekly 1000 mcg
 
Discharge Medications:
1. Prednisone 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily): 
Please taper dose by 5mg/week to be at 40 mg/day in two weeks. . 
 
2. Mesalamine 250 mg Capsule, Sustained Release Sig: Eight (8) 
Capsule, Sustained Release PO BID (2 times a day).  
3. Multivitamin     Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Zolpidem 5 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed.
Disp:*15 Tablet(s)* Refills:*0*
5. Hydromorphone 4 mg Tablet Sig: One (1) Tablet PO Q6H (every 6 
hours) as needed.
Disp:*15 Tablet(s)* Refills:*0*
6. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).
Disp:*60 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
7. Vitamin B-12 1,000 mcg/mL Solution Sig: One (1)  Injection 
once a week.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis: 
1. Duodenal bleeding secondary to Crohn's flare 
 
Secondary Diagnosis: 
1. Crohn's Disease 
2. B12 deficiency 
 
Discharge Condition:
Stable, with no active signs of bleeding.

 
Discharge Instructions:
You were admitted to the hospital with blood in your bowel 
movements.  You had an endoscopy which showed bleeding in the 
duodenum and this was treated.  Your blood levels (hematocrit) 
were stable but low (25.6%) and so you were transfused with one 
unit of red blood cells, which brought it up to 31.8%. You were 
then transferred to the regular medicine floor, where you were 
found to have a fast heart rate, which improved with increased 
fluid consumption. You received another 3 units of blood due to 
dropping hematocrit. Another endoscopy showed fragile small 
intestine, so you received remicade for your Crohn's. We further 
followed your hematocrit, and it remained stable.

Please take all medications as prescribed and go to all follow 
up appointments. Your ___ was stopped during this admission. 
You should take the proton-pump inhibitor (pantoprazole) to 
prevent upper gastrointestinal bleed. You will continue on 
remicade and prednisone taper as instructed by your GI doctor. 

You should return to the hospital for any further episodes of 
dark, tarry stools with lightheadness, dizziness or fainting.  
You should return to the hospital for any bright red blood in 
your bowel movements.  You should return to the hospital for any 
vomiting with or without blood.  You should contact your doctor 
or seek medical care for any fevers > 100.4, chills, night 
sweats, abdominal pain, chest pain, shortness of breath, 
bleeding episodes, excessive fatigue, leg swelling or any other 
symptoms that concern you.
 
Followup Instructions:
___